US08664220B2
Step 1: 1-(4′-{4-[3-(6-Methoxy-pyridin-3-yl)-phenylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and 2-methoxy-5-pyridineboronic acid.

reactant | 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)Br | C28H25BrN2O3
reactant | 2-methoxy-5-pyridineboronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
product | 1-(4′-{4-[3-(6-Methoxy-pyridin-3-yl)-phenylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)C=1C=NC(=CC1)OC | C34H31N3O4
